US06387919B1
4-[N′-(6-Oxo-5,6-dihydro-[1,3]-dioxolo[4,5-f]indol-7-ylidene)-hydrazino]-benzenesulfonamide (Z-isomer)
The title compound was prepared from 5H-[1,3]dioxolo[4,5-f]indole-6,7-dione (Lackey and Stembach, Synthesis 1993, 993-7) and 4-sulfonamidophenylhydrazine hydrochloride in 55% yield as an orange crystalline solid following Procedure G: mp>220° C.; 1H NMR (DMSO-d6): δ 12.63 (s, 1H), 10.89 (s, 1H), 7.73 (d, J=7 Hz, 2H), 7.50 (d, J=7 Hz, 2H), 7.22 (s, 2H), 7.13 (s, 1H), 6.56 (s, 1H), 6.00 (s, 2H). Anal. Calcd for C15H12N4O5S: C, 50.00; H, 3.36; N, 15.55. Found: C, 50.08; H, 3.35; N, 15.49.

reactant | 5H-[1,3]dioxolo[4,5-f]indole-6,7-dione | O1COC=2C1=CC=1C(C(NC1C2)=O)=O | C9H5NO4
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
product | 4-[N′-(6-Oxo-5,6-dihydro-[1,3]-dioxolo[4,5-f]indol-7-ylidene)-hydrazino]-benzenesulfonamide | 55% yield | O=C1NC=2C=C3C(=CC2C1=NNC1=CC=C(C=C1)S(=O)(=O)N)OCO3 | C15H12N4O5S
